US04230481
1,3-Dimethyl-4-(2,4-dichlorobenzoyl)-5-(4-methylbenzoylmethoxy) pyrazole
In a four necked flask, 2 g of 1,3-dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxy pyrazole was dissolved in 35 ml of methyl ethyl ketone, and 2 g of anhydrous potassium carbonate was added to the solution and 1.4 g of 4-methylphenacyl bromide was added dropwise to the mixture under stirring. The reaction was carried out for 2 hours under refluxing. The reaction mixture in the flask was cooled and filtered and methyl ethyl ketone was distilled off to obtain the precipitate of the reaction product. The precipitate was dissolved in methylene chloride and the solution was sequentially washed with water, an aqueous solution of sodium bicarbonate and water, and after drying over anhydrous sodium sulfate, methylene chloride was distilled off from the solution to obtain a crude product. The product was separated by a silica gel column with developing solvent (CH2Cl2 : 99.5% C2H5OH=100: 3) to obtain 1.87 g of brown oily product of 1,3-dimethyl-4-(2,4-dichlorobenzoyl)-5-(4-methyl benzoylmethoxy) pyrazole.

reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methylphenacyl bromide | 1.4 g | CC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO
reactant | 1,3-dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxy pyrazole | 2 g | CN1N=C(C(=C1O)C(C1=C(C=C(C=C1)Cl)Cl)=O)C | C12H10Cl2N2O2
solvent | methyl ethyl ketone | 35 ml | C(C)C(=O)C | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,3-Dimethyl-4-(2,4-dichlorobenzoyl)-5-(4-methylbenzoylmethoxy) pyrazole | 1.87 g | CN1N=C(C(=C1OCC(C1=CC=C(C=C1)C)=O)C(C1=C(C=C(C=C1)Cl)Cl)=O)C | C21H18Cl2N2O3
